US04007202
A mixture of 2.7 g (5 mmoles) of 1-(1-n-butyloxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one, 200 ml of 1,2-dichloroethane, 1,4 g (5 mmoles ) of 1,3-dibromo-5,5-dimethylhydantoin and 3 ml of propylene oxide was irradiated under nitrogen for 3 hours at 14° C with a Hanovia TQ 150 mercury high pressure lamp using a Pyrex filter. After concentrating the reaction mixture, the residue was chromatographed over silica gel [toluene -ethyl acetate 5:1 (v/v)] to obtain 300 mg (0.5 mmole) of 1-(1-n-butyloxycarbonyl-2-bromomethylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one.

reactant | 1-(1-n-butyloxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one | 5 mmoles, 2.7 g | C(CCC)OC(=O)C(C(=C)C)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O | C28H29N3O7S
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 5 mmoles, 1,4 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | propylene oxide | 3 ml | C1C(C)O1 | C3H6O
catalyst | mercury | [Hg] | Hg
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 1-(1-n-butyloxycarbonyl-2-bromomethylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one | 0.5 mmole, 300 mg | C(CCC)OC(=O)C(C(=C)CBr)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O | C28H28BrN3O7S
